US08445501B2
1-(5-Bromo-4-cyclopropylmethoxy-2-methyl-phenyl)ethanone
A suspension of 1-(4-cyclopropylmethoxy-2-methyl-phenyl)-ethanone from example A24 (6.4 g, 31.3 mmol) and N-bromosuccinimide (6.20 g, 34.5 mmol) in dry dimethylformamide (50 mL) is heated for 3 h at 50° C. After cooling to ambient temperature, water (200 mL) is added and the mixture is extracted with ethyl acetate (3×60 mL). The combined organic extracts are dried over sodium sulfate. The solvent is removed under reduced pressure. The crude is purified by column chromatography on silica gel using dichloromethane as eluent to give the title compound as a off-white solid. Yield: 4.80 g.

reactant | 1-(4-cyclopropylmethoxy-2-methyl-phenyl)-ethanone | C1(CC1)COC1=CC(=C(C=C1)C(C)=O)C | C13H16O2
reactant | N-bromosuccinimide | 34.5 mmol, 6.20 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 200 mL | O | H2O
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-(5-Bromo-4-cyclopropylmethoxy-2-methyl-phenyl)ethanone | BrC=1C(=CC(=C(C1)C(C)=O)C)OCC1CC1 | C13H15BrO2
